US04444766
A solution of 2.3 g. sodium in 80 ml. methanol, which contains 12 g. methyl 3-mercaptopropionate and 12.5 g. 2-bromoethanol, is stirred under reflux for 4 hours. After evaporating, the residue is taken up in chloroform, filtered and evaporated. 16 g. Methyl 3-(2-hydroxyethylthio)-propionate are obtained in the form of an oil.

reactant | sodium | [Na] | Na
reactant | methyl 3-mercaptopropionate | SCCC(=O)OC | C4H8O2S
reactant | 2-bromoethanol | BrCCO | C2H5BrO
solvent | methanol | CO | CH4O
product | Methyl 3-(2-hydroxyethylthio)-propionate | OCCSCCC(=O)OC | C6H12O3S
